US07476666B2
Step 7: Methyl 3-benzyloxy-7-ethoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
Methyl 3-benzyloxy-7-ethoxycarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate (4.0 g, 10.71 mmol) was azeotroped from toluene and dissolved in anhydrous DMF (20 mL), and iodomethane (700 μL, 11.25 mmol) was passed through a plug of activated basic alumina and added to the solution. After being cooled to 0° C., the solution was treated with sodium hydride (270 mg, 11.25 mmol, 95% dispersion in oil) and stirred for 1 hour. The reaction was quenched with acetic acid, and the solvent removed in vacuo. The resulting residue was triturated with diethyl ether to afford a solid which was partitioned between saturated aqueous NaHCO3 and EtOAc. The aqueous layer was extracted into EtOAc three times more, and the combined organic extracts were dried over Na2SO4 and concentrated to afford the title product as a yellow oil. 1H NMR (400 MHz, d6-DMSO) δ 7.49-7.44 (m, 2H), 7.39-7.32 (m, 3H), 5.29-5.15 (m, 2H), 4.23-4.13 (m, 3H), 4.00-3.80 (m, 1H), 3.79 (s, 3H), 3.41-3.36 (m, 1H), 3.00 (s, 3H), 1.20-1.11 (m, 3H); ES MS (M+H)=388.

reactant | Methyl 3-benzyloxy-7-ethoxycarbonyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | 10.71 mmol, 4.0 g | C(C1=CC=CC=C1)OC=1C(=NN2C1C(NCC2C(=O)OCC)=O)C(=O)OC | C18H19N3O6
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | iodomethane | 11.25 mmol, 700 μL | IC | CH3I
reactant | sodium hydride | 11.25 mmol, 270 mg | [H-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Methyl 3-benzyloxy-7-ethoxycarbonyl-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2C(=O)OCC)C)=O)C(=O)OC | C19H21N3O6
